US08183246B2
6-{[6-(2-Methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid
Dissolve 55 mg (0.12 mmol) 6-{[6-(2-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester in 2.5 ml dioxan and add 0.5 ml 1 N sodium hydroxide solution. Stir for 16 h at RT, then add 0.5 ml 1 N hydrochloric acid and 6 ml ethyl acetate. Separate the organic phase, dry over sodium sulphate, filter and concentrate by evaporation. 42 mg (77% of theor.) of the target compound is obtained.

reactant | 6-{[6-(2-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.12 mmol, 55 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)OC)=O | C27H29N3O5
reactant | sodium hydroxide | 1 N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
reactant | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxan | 2.5 ml | O1CCOCC1 | C4H8O2
product | 6-{[6-(2-Methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid | COC1=C(C=CC=C1)C1=C(C2=C(N=CN=C2NCCCCCC(=O)O)O1)C1=CC=C(C=C1)OC | C26H27N3O5
